US08614206B2
tert-Butyl 6-hydroxy-6-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate (Less Polar Pair of Diastereomers)
Triphenylphosphine (113 mg, 0.43 mmol) was added to a stirred solution of 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol (less polar pair of diastereomers) (103 mg, 0.35 mmol) in THF (5 mL) and water (1 mL) and the mixture was heated at 60° C. for 16 hr. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DCM (10 mL) and DIPEA (0.19 mL, 1.09 mmol) before di-tert-butyldicarbonate (153 mg, 0.70 mmol) was added. The mixture was stirred at room temperature for 3 hr and then washed with saturated NaHCO3 (15 mL). The organic layer was passed through a phase separation cartridge and the solvent removed under reduced pressure. The residue was purified via silica gel column chromatography (0-100% EtOAc/isohexane) to afford a pale orange gum (110 mg, 86% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 4.62 (br s, 1H), 4.2-4.10 (m, 1H), 3.87 (s, 3H), 3.60-3.45 (m, 1H), 3.35-3.10 (m, 2H), 2.90-2.80 (m, 1H), 2.73 (br s, 1H), 2.25-2.10 (m, 1H), 2.05-1.90 (m, 1H), 1.80-1.65 (m, 2H), 1.45 (s, 9H), 1.19 (s, 3H). LCMS (ES+) m/z 370 (M+1).

reactant | Triphenylphosphine | 0.43 mmol, 113 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C)[N+](=O)[O-])(O)C | C11H17N7O3
reactant | DIPEA | 1.09 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyldicarbonate | 0.70 mmol, 153 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | tert-Butyl 6-hydroxy-6-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate | OC1(CC(CCN(C1)C1=C(C=NN1C)[N+](=O)[O-])NC(OC(C)(C)C)=O)C | C16H27N5O5
